US08664253B2
Ethyl (1S,2S)-2-{4-[1-(2-fluoroethyl)-5-iodo-1H-imidazol-4-yl]phenyl}cyclopropanecarboxylate
To a solution of ethyl (1S,2S)-2-{4-[1-(2-fluoroethyl)-1H-imidazol-4-yl]phenyl}cyclopropanecarboxylate (450 mg, 1.488 mmol) in dichloromethane (5 mL) was added N-iodosuccinimide (352 mg, 1.563 mmol) and three drops trifluoroacetic acid. The reaction was stirred at rt for 3 h. The mixture was neutralized with aqueous sodium bicarbonate and the organics were extracted with dichloromethane. The organics were then washed with aqueous sodium thiosulfate, followed by three washes with water. The organics were dried (MgSO4), concentrated, and purified on 20 g of silica gel eluting a gradient of 35-100% ethyl acetate in hexanes to give rise to the title compound as a brown oil (110 mg, 0.257 mmol). LCMS: [M+1]+=429.

reactant | ethyl (1S,2S)-2-{4-[1-(2-fluoroethyl)-1H-imidazol-4-yl]phenyl}cyclopropanecarboxylate | 1.488 mmol, 450 mg | FCCN1C=NC(=C1)C1=CC=C(C=C1)[C@@H]1[C@H](C1)C(=O)OCC | C17H19FN2O2
reactant | N-iodosuccinimide | 1.563 mmol, 352 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | trifluoroacetic acid | three drops | FC(C(=O)O)(F)F | C2HF3O2
product | Ethyl (1S,2S)-2-{4-[1-(2-fluoroethyl)-5-iodo-1H-imidazol-4-yl]phenyl}cyclopropanecarboxylate | 0.257 mmol, 110 mg | FCCN1C=NC(=C1I)C1=CC=C(C=C1)[C@@H]1[C@H](C1)C(=O)OCC | C17H18FIN2O2
